US05607950
2-(3-Cyano-3,3-diphenylpropyl)-1-(3,4-methylenedioxyphenethyl)piperidine
A mixture of 2-(3-cyano-3,3-diphenylpropyl)piperidine (217 mg, 0.74 mmol--see Preparation 18), 3,4-methylenedioxyphenethyl bromide (186 mg, 0.82 mmol--see Preparation 12), potassium carbonate (1.0 g) and sodium iodide (20 mg) in acetonitrile (10 ml) was heated under reflux for 48 hours, allowed to cool to room temperature and diluted with ethyl acetate and water. The organic layer was dried over sodium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-5% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (31 mg, 9%) as a colourless oil, which was characterised as containing 0.75 of an equivalent of water.

reactant | 2-(3-cyano-3,3-diphenylpropyl)piperidine | 0.74 mmol, 217 mg | C(#N)C(CCC1NCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H24N2
reactant | 3,4-methylenedioxyphenethyl bromide | 0.82 mmol, 186 mg | C1OC=2C=C(CCBr)C=CC2O1 | C9H9BrO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 20 mg | [I-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(3-Cyano-3,3-diphenylpropyl)-1-(3,4-methylenedioxyphenethyl)piperidine | 31 mg, 9% | C(#N)C(CCC1N(CCCC1)CCC1=CC2=C(C=C1)OCO2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H32N2O2
